US06506800B2
Preparation of 1-Chloro-4-[2,3,3-trifluoro-1-(2-methoxyethyl)-2-propenyl]benzene
Bromotrifluoroethylene (41.5 g, 257 mmol) was distilled (dry ice condenser) into a flask containing zinc (13.6 g, 208 mmol) and N,N-dimethylformamide (153 ml), and the resulting mixture was heated at approximately 60° C. for two hours. The reaction mixture was purged with nitrogen for one hour, cooled to −8° C., treated with cuprous bromide (29.83 g, 208 mmol), and stirred for 30 minutes without external cooling. 3-(4-chlorophenyl)-3-bromopropyl methyl ether (17.06 g, 64.7 mmol) in N,N-dimethylformamide (10 ml) was added followed by limonene (5 drops), and the resulting mixture was heated at 50° C. for 8 hours. The cooled reaction mixture was quenched with aqueous ammonium chloride and thoroughly extracted with hexane. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to a brown oil (10.76 g). Chromatography on silica gel eluting with methylene chloride:hexane (1:9) afforded the title compound as a yellow oil (2.25 g), which was characterized by IR, 1HNMR and mass spectral analysis.

reactant | Bromotrifluoroethylene | 257 mmol, 41.5 g | BrC(=C(F)F)F | C2BrF3
reactant | dry ice | C(=O)=O | CO2
reactant | 3-(4-chlorophenyl)-3-bromopropyl methyl ether | 64.7 mmol, 17.06 g | COCCC(Br)C1=CC=C(C=C1)Cl | C10H12BrClO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | limonene | 5 drops | CC1=CC[C@@H](CC1)C(=C)C | C10H16
catalyst | zinc | 208 mmol, 13.6 g | [Zn] | Zn
solvent | N,N-dimethylformamide | 153 ml | CN(C=O)C | C3H7NO
product | 1-Chloro-4-[2,3,3-trifluoro-1-(2-methoxyethyl)-2-propenyl]benzene | 2.25 g | ClC1=CC=C(C=C1)C(C(=C(F)F)F)CCOC | C12H12ClF3O
